data/mechanism_extracts/Angew/10.1002_anie.202117188_sup_1.json
{"doi": "10.1002_anie.202117188_sup_1", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical Cp*Rh-catalyzed C-H alkenylation of 1-naphthols with alkenes under constant current in an undivided cell", "mechanism_family": ["electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation regenerates the active Cp*Rh(III) catalyst from a reduced Rh species formed after C-H activation/alkene insertion/β-H elimination; H2 evolution at Pt cathode closes the redox balance", "key_intermediates": [{"name": "Cp*Rh(III) naphtholate/aryl complex after C-H metalation", "smiles": null, "role": "reactive"}, {"name": "Rh(III)-alkyl after migratory insertion into alkene 2e", "smiles": null, "role": "transient"}, {"name": "Reduced Rh species (Rh(I)) after β-hydride elimination/product release", "smiles": null, "role": "transient"}], "electron_flow": "Cp*Rh(III) performs C-H activation on 1-naphthol (non-rate-limiting), alkene inserts and β-H elimination delivers the alkenylated naphthol and a reduced Rh species; the anode reoxidizes Rh back to Rh(III) while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": "Step after the C-H cleavage (likely migratory insertion or β-hydride elimination); C-H activation is not rate-limiting based on kH/kD ≈ 1.1", "probe_reagents": [{"name": "[D]n-1a (ortho-deuterated 1-naphthol, 90% D)", "smiles": null, "purpose": "KIE", "observation": "Parallel initial-rate experiment gave kH/kD ≈ 1.1, indicating C-H cleavage is not rate-determining"}], "evidence_types_used": ["KIE", "H/D_labeling", "kinetic_order"], "evidence_strength": "medium", "notes": "Only the KIE portion of the mechanistic studies is shown on this page; the near-unity KIE (1.1) argues against rate-limiting concerted metalation-deprotonation, suggesting a post-C-H-activation step controls the rate."}
